US07186724B2
1-[4-(7-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperidin-1-yl]-ethanone (MDL 832823).
A mixture of 3-(1-acetyl-piperidin-4-yl)-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid (4.13 g, 11.1 mmol), Cu powder (0.706 g, 11.1 mmol), and quinoline (20 mL) was heated to 200° C. under nitrogen. After 10 min, no gas evolution was observed and the reaction cooled at room temperature. The mixture was diluted with ethyl acetate (100 mL), filtered through a Celite bed and the filtrate washed with 1 N HCl (2×100 mL), 5% aqueous potassium carbonate (100 mL), water (100 mL), and brine (100 mL) successively. The organics were dried over magnesium sulfate, filtered, and concentrated to give an amber oil. The oil was chromatographed on silica, eluting with 10% methanol/ethyl acetate to afford 2.69 g (74%) of the desired product as a tan solid.

reactant | 3-(1-acetyl-piperidin-4-yl)-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid | 11.1 mmol, 4.13 g | C(C)(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)O)C(=CC=C2)C(F)(F)F | C17H16F3NO3S
reactant | quinoline | 20 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-(7-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperidin-1-yl]-ethanone | 2.69 g, 74% | FC(C1=CC=CC2=C1SC=C2C2CCN(CC2)C(C)=O)(F)F | C16H16F3NOS
